US05380742
1.1 5-Tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole.
28 g of 10% palladium-on-charcoal containing 50% water and then 96 g (1.52 mol) of ammonium formate are added, under a nitrogen atmosphere, to a solution of 28.34 g (0.81 mol) of 1,3-dichloro-5-tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole in 800 ml of methanol. The mixture is heated at reflux for 3 hours, 28 g of wet palladium-on-charcoal are then added and reflux is maintained for 24 hours. After filtration through diatomaceous earth, the filtrate is evaporated to dryness and the residue is recrystallized from methanol. 16.64 g of a white solid are obtained. Yield 73%. Melting point: 125°-127° C.

reactant | ammonium formate | 1.52 mol, 96 g | C(=O)[O-].[NH4+]
reactant | 1,3-dichloro-5-tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 0.81 mol, 28.34 g | ClC=1SC(=C2C1CN(C2)S(=O)(=O)C2=CC=C(C)C=C2)Cl | C13H11Cl2NO2S2
solvent | methanol | 800 ml | CO | CH4O
catalyst | palladium-on-charcoal | 28 g | [Pd] | Pd
catalyst | palladium-on-charcoal | 28 g | [Pd] | Pd
product | 5-Tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 16.64 g, Yield 73% | S(=O)(=O)(C1=CC=C(C)C=C1)N1CC=2C(C1)=CSC2 | C13H13NO2S2
